US04070368
A suspension of 18.2 g. (0.044 mole) of ethyl 5-(p-chlorobenzoyl)-3-ethoxycarbonyl-4-ethyl-1-methylpyrrole-2-acetate in 170 ml. of 25% aqueous sodium hydroxide solution is heated under reflux for 3 hrs. It is cooled, diluted with water and acidified with dilute hydrochloric acid. The precipitated solid is collected by filtration and air dried. It is recrystallized from acetone-water to give 3-carboxy-5-(p-chlorobenzoyl)-4-ethyl-1-methylpyrrole-2-acetic acid, m.p. 211°-212.5° C.

reactant | ethyl 5-(p-chlorobenzoyl)-3-ethoxycarbonyl-4-ethyl-1-methylpyrrole-2-acetate | 0.044 mole | ClC1=CC=C(C(=O)C2=C(C(=C(N2C)CC(=O)OCC)C(=O)OCC)CC)C=C1 | C21H24ClNO5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 3-carboxy-5-(p-chlorobenzoyl)-4-ethyl-1-methylpyrrole-2-acetic acid | C(=O)(O)C1=C(N(C(=C1CC)C(C1=CC=C(C=C1)Cl)=O)C)CC(=O)O | C17H16ClNO5
